US08022222B2
Step B: Preparation of N-(4-(2,6-difluoro-phenoxy)pyridin-2-yl)-5-methylthiazolo[5,4-b]pyridin-2-amine hydrochloride:
A mixture of 2-chloro-3-isothiocyanato-6-methylpyridine (0.0831 g, 0.450 mmol) and 4-(2,6-difluorophenoxy)pyridin-2-amine (0.100 g, 0.450 mmol) in DMF (2 mL) was stirred at 80° C. for 3 hours and then at 120° C. overnight. The reaction was cooled and partitioned between ethyl acetate and 2N NaOH. The organic layer was washed with water and brine, dried, and concentrated. The crude material was purified via MPLC (Biotage) eluting with 3:2 hexane:ethyl acetate. The isolated product was dissolved in ether (5 mL), followed by the addition of 1N HCl in ether (3 mL) and then hexanes (4 mL). The resulting solids were filtered and washed with hexanes to provide the desired product (0.095 g, 51.9% yield) as a white powder: 1H NMR (d6-DMSO) δ 2.64 (s, 3H), 6.71 (s, 1H), 6.81 (d, 1H), 7.38-7.53 (m, 4H), 8.05 (d, 1H), 8.36 (d, 1H).

reactant | 2-chloro-3-isothiocyanato-6-methylpyridine | 0.450 mmol, 0.0831 g | ClC1=NC(=CC=C1N=C=S)C | C7H5ClN2S
reactant | 4-(2,6-difluorophenoxy)pyridin-2-amine | 0.450 mmol, 0.100 g | FC1=C(OC2=CC(=NC=C2)N)C(=CC=C1)F | C11H8F2N2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-(2,6-difluoro-phenoxy)pyridin-2-yl)-5-methylthiazolo[5,4-b]pyridin-2-amine hydrochloride | 0.095 g, 51.9% yield | Cl.FC1=C(OC2=CC(=NC=C2)NC=2SC3=NC(=CC=C3N2)C)C(=CC=C1)F | InChI=1S/C18H12F2N4OS.ClH/c1-10-5-6-14-17(22-10)26-18(23-14)24-15-9-11(7-8-21-15)25-16-12(19)3-2-4-13(16)20;/h2-9H,1H3,(H,21,23,24);1H
